US06683211B1
To a solution of 2-(4-chloro-phenyl)-N-mesyloxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide (452 mg, 1 mmol) in a mixture of 6 ml acetonitrile and 6 ml n-propanol during a period of 12 hours a solution of triethylamine (0.146 ml, 1.05 mmol) in 12 ml of acetonitrile is added dropwise. The mixture is stirred for 20 hours at room temperature. The solvent and excess n-propanol is removed under reduced pressure and the residue was diluted with ethyl acetate (30 ml), washed with water, 1N HCl, and brine, and dried with Na2SO4. After evaporation of the solvent the product is purified by flash chromatography (ethyl acetate:hexane, 1:2) to yield 2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-2-propoxy-acetamide in form of an oil. 1H-NMR (300 MHz, CDCl3): 0.89(t, 3H, CH3), 1.58(q, 2H, CH2), 2.50(t, 1H, C≡CH), 2.79(t, 2H, CH2CH2), 3.35(t, 2H, OCH2), 3.52(dt, 2H, CH2CH2), 3.83(s, 3H, OCH3), 4.63(s, 1H, CHOH), 4.74(d, 2H, OCH2), 6.67-7.30(m, 8H, CH arom., NH).

reactant | 2-(4-chloro-phenyl)-N-mesyloxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide | 1 mmol, 452 mg | ClC1=CC=C(C=C1)CC(=O)N(CCC1=CC(=C(C=C1)OCC#C)OC)OS(=O)(=O)C | C21H22ClNO6S
reactant | triethylamine | 1.05 mmol, 0.146 ml | C(C)N(CC)CC | C6H15N
reactant | n-propanol | 6 ml | C(CC)O | C3H8O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-2-propoxy-acetamide | ClC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)OCCC | C23H26ClNO4
